US06900215B2
A mixture of 3-bromo-5-methylpyridine (0.5 g, 2.91 mmol), bis(neopentyl glycolato)diboron (0.72 g, 3.19 mmol) and potassium acetate (0.86 g, 8.76 mmol) in 1,4-dioxane (10 ml) was degassed with nitrogen for 10 min. [1,1′-Bis(diphenylphosphino)ferrocene]palladium(II) dichloride 1:1 dichloromethane adduct (237 mg, 0.29 mmol) was added and the mixture heated at 100° C. for 1 h. The solvent was evaporated in vacuo and the residue partitioned between dichloromethane and water. The aqueous phase was re-extracted with dichloromethane and the combined organic layers were extracted with 4N sodium hydroxide (×3). The combined aqueous layers were extracted with diethyl ether (×2) and the organic layers discarded. The aqueous phase was neutralised with 5N hydrochloric acid and extracted with dichloromethane (×3). The combined organic layers were washed with brine, dried over anhydrous magnesium sulphate and evaporated to give 3-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-5-methylpyridine as a beige solid (150 mg, 25%): δH (360 MHz, d6-DMSO) 0.96 (6H, s), 2.28 (3H, s), 3.77 (4H, s), 7.79-7-82 (1H, m), 8.43-8.46 (1H, m), 8.56-8.59 (1H, m).

reactant | 3-bromo-5-methylpyridine | 2.91 mmol, 0.5 g | BrC=1C=NC=C(C1)C | C6H6BrN
reactant | bis(neopentyl glycolato)diboron | 3.19 mmol, 0.72 g | B1(OCC(CO1)(C)C)B2OCC(CO2)(C)C | C10H20B2O4
reactant | potassium acetate | 8.76 mmol, 0.86 g | C(C)(=O)[O-].[K+]
reactant | dichloromethane | 0.29 mmol, 237 mg | ClCCl | CH2Cl2
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
catalyst | [1,1′-Bis(diphenylphosphino)ferrocene]palladium(II) dichloride | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-5-methylpyridine | 150 mg, 25% | CC1(COB(OC1)C=1C=NC=C(C1)C)C | C11H16BNO2
